US07683185B2
6-(4-Dimethylamino-benzenesulfinyl)-hexanoic acid methyl ester (30e).
To a solution of 6-(4-dimethylamino-phenylsulfanyl)-hexanoic acid methyl ester (1.4 g, 5.0 mmol) in methanol (60 mL) was added dropwise at 0° C. a solution of sodium metaperiodate (1.3 g, 6.0 mmol) in distilled water (20 mL). The mixture was heated at 60° C. for 1 hour. The solution was concentrated under reduced pressure to give an oil that was dissolved in ethyl acetate (150 mL). The organic layer was washed with saturated aqueous sodium hydrogen carbonate (100 mL), distilled water (2×50 mL), and lastly with brine (2×50 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give an oil that was purified by flash chromatography (100:1 ethyl acetate:triethylamine) to give the title compound (1.2 g, 81%) as a colourless oil.

reactant | 6-(4-dimethylamino-phenylsulfanyl)-hexanoic acid methyl ester | 5.0 mmol, 1.4 g | COC(CCCCCSC1=CC=C(C=C1)N(C)C)=O | C15H23NO2S
reactant | sodium metaperiodate | 6.0 mmol, 1.3 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 60 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 6-(4-Dimethylamino-benzenesulfinyl)-hexanoic acid methyl ester | 1.2 g, 81% | COC(CCCCCS(=O)C1=CC=C(C=C1)N(C)C)=O | C15H23NO3S
